US08859574B2
To a solution of 5-chloro-N2-(2,5-dimethyl-4-(piperidin-4-yl)phenyl)-N4-(5-methyl-1H-pyrazol-3-yl)pyrimidine-2,4-diamine (30 mg, 0.073 mmol) in acetonitrile (1 mL) was added Cs2CO3 (47 mg, 0.15 mmol) and 4-iodotetrahydro-2H-thiopyran (48 mg, 0.22 mmol). This mixture was then stirred at 80° C. for 16 hr. After cooling down to room temperature, the mixture was treated with saturated aqueous NH4Cl solution (3 mL) and extracted with EtOAc (3×3 mL). The organic layers were combined and concentrated. The residue was purified by silica gel chromatography (Gradient 0˜8% MeOH/CH2Cl2 with NH3) to provide 5-chloro-N2-(2,5-dimethyl-4-(1-(tetrahydro-2H-thiopyran-4-yl)piperidin-4-yl)phenyl)-N4-(5-methyl-1H-pyrazol-3-yl)pyrimidine-2,4-diamine as a white solid. ESMS m/z 512.2 (M+H+).

reactant | 5-chloro-N2-(2,5-dimethyl-4-(piperidin-4-yl)phenyl)-N4-(5-methyl-1H-pyrazol-3-yl)pyrimidine-2,4-diamine | 0.073 mmol, 30 mg | ClC=1C(=NC(=NC1)NC1=C(C=C(C(=C1)C)C1CCNCC1)C)NC1=NNC(=C1)C | C21H26ClN7
reactant | Cs2CO3 | 0.15 mmol, 47 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 4-iodotetrahydro-2H-thiopyran | 0.22 mmol, 48 mg | IC1CCSCC1 | C5H9IS
reactant | NH4Cl | 3 mL | [NH4+].[Cl-]
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
product | 5-chloro-N2-(2,5-dimethyl-4-(1-(tetrahydro-2H-thiopyran-4-yl)piperidin-4-yl)phenyl)-N4-(5-methyl-1H-pyrazol-3-yl)pyrimidine-2,4-diamine | ClC=1C(=NC(=NC1)NC1=C(C=C(C(=C1)C)C1CCN(CC1)C1CCSCC1)C)NC1=NNC(=C1)C | C26H34ClN7S
